US08492376B2
trans-1-{8-Chloro-1-[4-(3-fluoro-pyridin-2-yl)-cyclohexyl]-4H,6H-2,3,5,10b-tetraaza-benzo[e]azulen-5-yl}-ethanone
To a solution of trans-8-chloro-1-[4-(3-fluoro-pyridin-2-yl)-cyclohexyl]-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzo[e]azulene (50.0 mg, 0.126 mmol) and triethylamine (0.035 ml, 0.25 mmol) in dichloromethane (0.6 ml) was added acetyl chloride (0.18 ml, 0.251 mmol) at room temperature. Stirring for 20 h was followed by partitioning between a water-brine mixture (1:1) (2 ml) and ethyl acetate (5 ml). The layers were separated. The aqueous layer was extracted with two 5 ml-portions of ethyl acetate. The combined organic layers were concentrated in vacuo. Preparative RP-HPLC with water (0.05% formic acid)/methanol as eluent gave the title compound (7 mg, 12%) as off-white solid. MS m/e: 440 ([M+H]+)

reactant | trans-8-chloro-1-[4-(3-fluoro-pyridin-2-yl)-cyclohexyl]-5,6-dihydro-4H-2,3,5,10b-tetraaza-benzo[e]azulene | 0.126 mmol, 50.0 mg | ClC1=CC2=C(N3C(=NN=C3CNC2)[C@@H]2CC[C@H](CC2)C2=NC=CC=C2F)C=C1 | C21H21ClFN5
reactant | triethylamine | 0.25 mmol, 0.035 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.251 mmol, 0.18 ml | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 0.6 ml | ClCCl | CH2Cl2
product | trans-1-{8-Chloro-1-[4-(3-fluoro-pyridin-2-yl)-cyclohexyl]-4H,6H-2,3,5,10b-tetraaza-benzo[e]azulen-5-yl}-ethanone | 7 mg, 12% | ClC1=CC2=C(N3C(=NN=C3CN(C2)C(C)=O)[C@@H]2CC[C@H](CC2)C2=NC=CC=C2F)C=C1 | C23H23ClFN5O
